US08293926B2
Synthesis of (R)-4-amino-3-(4-chlorophenyl)butanoic acid
Under a nitrogen atmosphere, (R)-4-amino-3-(4-chlorophenyl)butanoic acid hydrochloride (4.0 g, 16.0 mmol) was dissolved in water (12 ml). Into this, 1 mol/L sodium hydroxide aqueous solution was dropped, to adjust pH to 6.5. The crystallized crystal was filtrated and dried under reduced pressure to obtain a title compound (3.13 g, 14.6 mmol) (yield: 91%). The optical purity of the resultant title compound was measured by HPLC to find a value of 99.9% ee or more (conditions are shown below).

reactant | (R)-4-amino-3-(4-chlorophenyl)butanoic acid hydrochloride | 16.0 mmol, 4.0 g | Cl.NC[C@H](CC(=O)O)C1=CC=C(C=C1)Cl
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
solvent | water | 12 ml | O | H2O
product | (R)-4-amino-3-(4-chlorophenyl)butanoic acid | 14.6 mmol, 3.13 g, yield: 91% | NC[C@H](CC(=O)O)C1=CC=C(C=C1)Cl | C10H12ClNO2
